* OP270 SPICE Macro-model 
* Description: Amplifier
* Generic Desc: 9/30V, BIP, OP, Low Noise, Precision, 2X
* Developed by: HH / ADSJ
* Revision History: 08/10/2012 - Updated to new header style
* 1.0 (01/2010)
* Copyright 2010, 2012 by Analog Devices, Inc.
*
* Refer to http://www.analog.com/Analog_Root/static/techSupport/designTools/spiceModels/license/spice_general.html for License Statement. Use of this model 
* indicates your acceptance of the terms and provisions in the License Statement.
*
* BEGIN Notes:
*
* Not Modeled:
*    
* Parameters modeled include:
* This version of the OP-270 model simulates the typical 
* parameters at 25C and +/-15V only.
*
* END Notes
*
* Node assignments
*              non-inverting input
*              | inverting input
*              | | positive supply
*              | | |  negative supply
*              | | |  |  output
*              | | |  |  |
.SUBCKT OP270  1 2 99 50 39
*
* INPUT STAGE 
*
R3   5  99    3.050E+04
R4   6  99    3.050E+04
CIN  1   2    3.2E-12
C2   5a  6    2.65E-13
RC2  5  5a    1.0E+03 
IOS  1   2    5.0E-9
EOS  9   1    POLY(4) (31 98) (81 98) (83 98) (22 98) 100E-06 1 1 1 1
Q1   5  2  7  QXN
Q2   6  9  8  QXN
R5   7   4    1.07E+02
R6   8   4    1.07E+02
I1   4  50    200E-06
VI1  450 50   2.7
DI1  450  4   DX
D1   2   1    DX
D2   1   2    DX
GN1  50   2   (60 61)  1.453E-05
GN2  50   1   (62 63)  1.453E-05
*
EREF  98 0    33  0  1
*
* GAIN STAGE & DOMINANT POLE 
*
R7   20 98     3.640E+08
C3   20 98     9.75E-11
G1   98 20     (5 6)  4.262E-05
EV1  98 21a     POLY(1) (99 98)  -2.1  1
EV2  22a 98     POLY(1) (98 50)  -2.3  1
D5   21a 20     DX
D6   20 22a     DX
*
* COMMON-MODE GAIN NETWORK 
*
E5   30 98     POLY(2) (2 50) (1 50)  0  8.483E-04  8.483E-04
RCM1 30 31     1.929E+00
RCM2 31 98     7.958E-04
CCM  30 31     100.0E-06
*
* PSRR NETWORK
*
EPSY 98 21 POLY(1) (99,50) -4.468E-02 1.489E-03  
RPS3 21 22 1.989E+01
RPS4 22 98 1.061E-02
CPS3 22 21 1.0E-06
*
* VOLTAGE NOISE
*
VN1 80 98 0
RN1 80 98 33.1E-3
HN  81 98 VN1 2.10E+00
RN2 81 98 1
*
* FLICKER NOISE CORNER 
*
DFN 82 98 DNOISE
VFN 82 98 DC 0.65520
HFN 83 98 POLY(1) VFN 1.00E-03 1.00E+00
RFN 83 98 1
*
* CURRENT NOISE SOURCE WITH FLICKER NOISE
*
D60 60 0 DIN1 1000
I60 0 60 1m
D61 61 0 DIN1
I61 0 61 1u
*
* SECOND CURRENT NOISE SOURCE
*
D62 62 0 DIN1
I62 0 62 1u
D63 63 0 DIN1
I63 0 63 1u
*
R17  33 99     1meg
R18  33 50     1meg
C178 33 50    1E-06
C188 33 99    1E-06
*
GSY  99 50     POLY(1) 99 50 1.425E-03 12.475E-6
*
*  OUTPUT STAGE
*
R19  34 99     160
R20  34 50     160
G9   34 99     99 20   6.250E-3
G10  50 34     20 50   6.250E-3
*
V3   35 34     1.5;  source
D9   20 35     DX
V4   34 36     1.003
D10  36 20     DX
*
G7   37 50     20 34   6.250E-3
G8   38 50     34 20   6.250E-3
D11  99 37     DX
D12  99 38     DX
D13  50 37     DY
D14  50 38     DY
*
F1   34  0     V3  1
F2   0  34     V4  1
*
L3   34 39     1E-7;    39 is output pin
*
* MODELS USED
*
.MODEL QXN NPN(BF=1.333E+04); , KF=1.2E-6, AF=1)
.MODEL DX   D(IS=1E-15, RS=1m)
.MODEL DY   D(IS=1E-15 BV=50)
.MODEL DEN  D(IS=1E-12, RS=300, KF=5.5E-16, AF=0.96)
.MODEL DNOISE D(IS=1E-14,RS=1E-1,KF=3.7E-14)
.MODEL DIN  D(IS=1E-12, RS=1.0E-3, KF=6.3E-16, AF=1)
.MODEL DIN1 D(IS=1E-15, RS=3.70E+04, KF=3.04E-17, AF=1)
.ENDS




